US09119868B2
A suspension of 2,4-difluoro-1-nitrobenzene (261 mg, 1.64 mmol) and 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-[(methylsulfonyl)amino]-1-benzofuran-3-carboxamide (600 mg, 1.49 mmol) in dimethoxyethane (0.8 mL) and water (0.2 mL) was treated with potassium carbonate (616.86 mg, 4.47 mmol) and heated to 100° C. for 24 hours. The reaction mixture was concentrated and purified by column chromatography to afford 5-cyclopropyl-6-(N-(3-fluoro-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (230 mg, 0.43 mmol, 29% yield) as a yellow powder. LCMS (m/z, ES+)=542 (M+H+)

reactant | 2,4-difluoro-1-nitrobenzene | 1.64 mmol, 261 mg | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-[(methylsulfonyl)amino]-1-benzofuran-3-carboxamide | 1.49 mmol, 600 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)NS(=O)(=O)C | C20H19FN2O4S
reactant | potassium carbonate | 4.47 mmol, 616.86 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 0.8 mL | C(OC)COC | C4H10O2
solvent | water | 0.2 mL | O | H2O
product | 5-cyclopropyl-6-(N-(3-fluoro-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.43 mmol, 230 mg, 29% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)[N+](=O)[O-])F | C26H21F2N3O6S
